US07842758B2
6,7-Dimethyl-4,9-bis[(trimethylsilyl)ethynyl][1,2,5]thiadiazolo[3,4-g]quinoxaline
4,9-Dibromo-6,7-dimethyl[1,2,5]thiadiazolo[3,4-g]quinoxaline (68.0 mg, 1.82×10−4 mol), Pd2dba3 (36.0 mg, 3.93×10−5 mol), AsPh3 (62.2 mg, 2.03×10−4 mol), (trimethylsilyl)acetylene (0.60 ml, 4.2×10−3 mol), Et3N (2.0 ml), and THF (15 ml) were added to a 100-ml Schlenk tube. The reaction mixture was stirred at 45° C. for 18.5 h under N2. After the solvent was evaporated, the residue was chromatographed on silica gel using 8:1 hexanes:THF as the eluant. Yield=0.051 g (69% based on 68.0 mg of 4,9-dibromo-6,7-dimethyl[1,2,5]thiadiazolo[3,4-g]quinoxaline). 1H NMR (360 MHz, CDCl3): δ 2.83 (s, 6H, —CH3), 0.42 (s, 18H, —Si—CH3). Chemical Ionization MS m/z: 408.1264 (M+) (calcd 408.126).

reactant | 4,9-Dibromo-6,7-dimethyl[1,2,5]thiadiazolo[3,4-g]quinoxaline | 1.82×10−4 mol, 68.0 mg | BrC=1C=2C(C(=C3N=C(C(=NC13)C)C)Br)=NSN2 | C10H6Br2N4S
reactant | AsPh3 | 2.03×10−4 mol, 62.2 mg | C=1C=CC(=CC1)[As](C=2C=CC=CC2)C=3C=CC=CC3 | C18H15As
reactant | (trimethylsilyl)acetylene | 4.2×10−3 mol, 0.60 ml | C[Si](C)(C)C#C | C5H10Si
reactant | Et3N | 2.0 ml | CCN(CC)CC | C6H15N
catalyst | Pd2dba3 | 3.93×10−5 mol, 36.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 6,7-Dimethyl-4,9-bis[(trimethylsilyl)ethynyl][1,2,5]thiadiazolo[3,4-g]quinoxaline | CC1=NC2=C(C=3C(C(=C2N=C1C)C#C[Si](C)(C)C)=NSN3)C#C[Si](C)(C)C | C20H24N4SSi2
